data/pmechdb/original/mc_train_fold0/raw/train.txt
C1=CC=C(C=C1)CC(=O)CC(=O)O[C:20](=[O:21])C2=CC=CC=C2.[OH-:10]>>C1=CC=C(C=C1)CC(=O)CC(=O)O[C:20](C2=CC=CC=C2)([OH:10])[O-:21] 10=20;20,21=21
CC1=C(SC=[N+]1CC2=CC=C(C=C2)CC[N+]3=[C-:10]SC(=C3C)CCO)CCO.C1=CC(=CC=C1[CH:20]=[O:21])F.CC[NH+](CC)CC.CCO.C1=CC=C(C=C1)C(=O)C=CC2=CC=CS2.[Br-]>>CC1=C(SC=[N+]1CC2=CC=C(C=C2)CC[N+]3=[C:10](SC(=C3C)CCO)[CH:20](C4=CC=C(C=C4)F)[O-:21])CCO.CC[NH+](CC)CC.CCO.C1=CC=C(C=C1)C(=O)C=CC2=CC=CS2.[Br-] 10=20;20,21=21
CCOC1=C2C=C(C(=C2C=CC=C1)C(=O)OCC)C3=C([O:10][C:20](C3)(C4=CC=C(C=C4)OC)[OH2+:21])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CN(C)C=O>>CCOC1=C2C=C(C(=C2C=CC=C1)C(=O)OCC)C3=C([O+:10]=[C:20](C3)C4=CC=C(C=C4)OC)C.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].CN(C)C=O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CCC(C)([OH:10])OCC(CO)O>>[H:20][OH+:10]C(C)(CC)OCC(CO)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C[N:10](C)[CH+:20][S-]>>C[N+:10](=[CH:20][S-])C 10=20,
C[CH+:20]C.[CH:11]1=[CH:10]OC=C1S(=O)(=O)O>>C[CH:20](C)[CH:10]1[CH+:11]C(=CO1)S(=O)(=O)O 10,11=10,20
[H:20][NH2+:21]C1=CC=CC=C1.C1=CC=C(C=C1)NC(C2=C(C=CC=C2)F)[O-:10]>>[H:20][O:10]C(C1=C(C=CC=C1)F)NC2=CC=CC=C2.C1=CC=C(C=C1)[NH2:21] 10=20;20,21=21
CN1C(=CN2C=CC=C2C1=O)CCCN3C(=O)C4=C([C:20]3=[O:21])C=CC=C4.N[NH2:10].O.[Cl-].[K+]>>CN1C(=CN2C=CC=C2C1=O)CCCN3C(=O)C4=C([C:20]3([NH2+:10]N)[O-:21])C=CC=C4.O.[Cl-].[K+] 10=20;20,21=21
C[C:21](=[N+:20]=[N-:10])[C:22](=[O:23])C1=CC=CC=C1>>C[C:21](=[C:22](C1=CC=CC=C1)[O-:23])[N+:20]#[N:10] 10=20;22,23=23;20,21=21,22
[H:20][NH3+:21].CC(C(CCC(=O)OC)C(=O)C)C([NH3+])[O-:10].C(=O)(O)[O-]>>[H:20][O:10]C(C(C)C(CCC(=O)OC)C(=O)C)[NH3+].[NH3:21].C(=O)(O)[O-] 10=20;20,21=21
CCC=[O+][Si-:10](C)(C)(C)[O:11]S(=O)(=O)C(F)(F)F>>CCC=[O+][Si:10](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-:11] 10,11=11
[H:20][O:21]C(=O)C.C[O:12][CH:11]=[C:10]1CCC2(CC1)OCCO2.O>>[H:20][C:10]1(CCC2(CC1)OCCO2)[CH:11]=[O+:12]C.CC(=O)[O-:21].O 10,11=10,20;20,21=21;12=11
[H:20][C:21]12[CH+:22]C=CC=C1CCN=C2C.[O-:10]P(=O)(Cl)Cl>>[H:20][O:10]P(=O)(Cl)Cl.CC1=NCCC2=CC=C[CH:22]=[C:21]12 10=20;20,21=21,22
[H:20][CH:21](C)[C+:22](C1=CC=CC=C1)OCCO.[Br-:10]>>[H:20][Br:10].C[CH:21]=[C:22](C1=CC=CC=C1)OCCO 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)C(F)(F)F.CC(=CCC12C([O:10]1)CCCC2=O)C>>[H:20][O+:10]1C2C1(C(=O)CCC2)CC=C(C)C.C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21](CC)C(C)(C)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C)(C)O 10=20;20,21=21
[Li-:10]1OC(=CC([S+:11]1C(C)(C)C)CBr)OC>>[Li:10]OC(=CC(CBr)[S:11]C(C)(C)C)OC 10,11=11
[B:20](C1CCCCC1)(OC2CCCCC2)OC(C(C)C(=O)C(C)COCC3=CC=CC=C3)C(=CCC)C.O[O-:10]>>[B-:20](C1CCCCC1)(OC2CCCCC2)(OC(C(C)C(=O)C(C)COCC3=CC=CC=C3)C(=CCC)C)[O:10]O 10=20,
C1=CC=C2C=CC=C[C:11]2=[CH:10]1.[N+:20](=O)=[O:21]>>C1=CC2=CC=C[CH:10]([C+:11]2C=C1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
[H:10][BH2-:11]C#N.CCOC(=O)C[C:20](=[N+:21]1CCOCC1)C.CC(=O)[O-]>>[H:10][C:20](C)(CC(=O)OCC)[N:21]1CCOCC1.[BH2:11]C#N.CC(=O)[O-] 10,11=10,20;20,21=21
C[P:10](C)([Mg]Br)(Cl)[Cl:11]>>C[P+:10](C)([Mg]Br)Cl.[Cl-:11] 10,11=11
C1C[OH+:21][CH:20]([O:10]C1)CCC2=C(C=NC=N2)Br.C(=O)[O-].O>>C1=NC=NC(=C1Br)CC[CH:20]=[O+:10]CCC[OH:21].C(=O)[O-].O 10=20;20,21=21
CO[CH:20]=[O+:21]C.C[SH:10]>>CO[CH:20]([O:21]C)[SH+:10]C 10=20;20,21=21
CCCCCC1=C[C:11](=[CH:10]C(=C1)O)[O-:12].CC(=CCCC(=C[CH:20]=[N+:21](C)C)C)C>>CCCCCC1=C[C:11](=[O:12])[CH:10](C(=C1)O)[CH:20](C=C(C)CCC=C(C)C)[N:21](C)C 10,11=10,20;20,21=21;12=11
C1=CC=C(C=C1)CO[C:20]([NH3+:21])([O-:10])Cl>>C1=CC=C(C=C1)CO[C:20](=[O:10])Cl.[NH3:21] 10=20;20,21=21
CCN(CC)CC.CCO.CC1=C(C2=C(N1)C=CC=C2)C3=CC(=O)CC4[C:20]3([N:10]5CCCNC5=C4C(=O)C6=CC=C(C=C6)OC)[OH:21]>>CCN(CC)CC.CCO.CC1=C(C2=C(N1)C=CC=C2)C3=CC(=O)CC4[C:20]3=[N+:10]5CCCNC5=C4C(=O)C6=CC=C(C=C6)OC.[OH-:21] 10=20;20,21=21
CC12CCC3(C1)CCC4C(C3C[CH+:20]2)(CCCC4(C)C(=O)OC)C.[OH2:10].C(=O)[O-]>>CC12CCC3(C1)CCC4C(C3C[CH:20]2[OH2+:10])(CCCC4(C)C(=O)OC)C.C(=O)[O-] 10=20,
CC1CCC(C1[CH:20]=[N+:21](C)C2=CC=CC=C2)C(=C[O-:10])C.C[NH2+]C1=CC=CC=C1.O>>CC1CCC2C1[CH:20]([O:10]C=C2C)[N:21](C)C3=CC=CC=C3.C[NH2+]C1=CC=CC=C1.O 10=20;20,21=21
COCOC1CC2CC[C:10]34C2=C1CC[C:11]3(CC[CH:20]4[O:21]S(=O)(=O)C)[O-:12].CC(C)(C)O>>COCOC1CC2CC[C:10]3=[CH:20]CC[C:11](=[O:12])CCC1=C23.CS(=O)(=O)[O-:21].CC(C)(C)O 10,11=10,20;20,21=21;12=11
CCCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC=C2)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC=C2)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[Li]OC(C1=CC=CC=C1)C(C)N(C)[C:11](=[CH:10]C)[O:12][Li-][NH+](C(C)C)C(C)C.CC([CH2:20][I:21])C(COCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C.CC(C)NC(C)C>>[Li]OC(C1=CC=CC=C1)C(C)N(C)[C:11](=[O+:12][Li-][NH+](C(C)C)C(C)C)[CH:10](C)[CH2:20]C(C)C(COCC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C.[I-:21].CC(C)NC(C)C 10,11=10,20;20,21=21;12=11
C1CC[NH:10]C1.C1[C:20](=[O:21])CC2=C1C=CC=C2.CC1=CC=C(C=C1)S(=O)(=O)O>>C1CC[NH+:10](C1)[C:20]2(CC3=C(C2)C=CC=C3)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)O 10=20;20,21=21
C[CH:20]([N:10](C)C)[Cl:21]>>C[CH:20]=[N+:10](C)C.[Cl-:21] 10=20;20,21=21
